US06291530B1
A mixture of 3′-hydroxy-4′-(2,6-difluorobenzyloxy)-acetophenone (15.0 g, 53.96 mmol), ethyl bromoacetate (7.2 mL, 64.75 mmo), and K2CO3 (14.9 g, 107.92 mmol) in acetone (350 mL) is refluxed 18 hours. After cooling, the mixture is filtered, and the filtrate is concentrated in vacuo. Recrystallizaton from EtOAc yields ethyl [5-acetyl-2-(2,6-difluorobenzyloxy)-phenoxy]-acetate.

reactant | 3′-hydroxy-4′-(2,6-difluorobenzyloxy)-acetophenone | 53.96 mmol, 15.0 g | OC=1C=C(C=CC1OCC1=C(C=CC=C1F)F)C(C)=O | C15H12F2O3
reactant | ethyl bromoacetate | 7.2 mL | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 107.92 mmol, 14.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 350 mL | CC(=O)C | C3H6O
product | ethyl [5-acetyl-2-(2,6-difluorobenzyloxy)-phenoxy]-acetate | C(C)(=O)C=1C=CC(=C(OCC(=O)OCC)C1)OCC1=C(C=CC=C1F)F | C19H18F2O5
